US04120969
4-(Chloromethyl)-3,3-diphenyl-2-pyrrolidinone
To 30.0 g. (0.11 mole) of 4-(hydroxymethyl)-3,3-diphenyl-2-pyrrolidinone in 200 ml. of chloroform was added 25.0 g. (0.20 mole) of thionyl chloride. To this stirring solution was added dropwise with ice bath cooling 20.0 g. (0.26 mole) of dry pyridine maintaining room temperature. The solution was refluxed for 2.5 hours. Upon cooling, the chloroform solution was washed successively with dilute hydrochloric acid solution and dilute sodium hydroxide solution. The chloroform was dried, filtered and concentrated in vacuo. The solid residue was recrystallized twice from ethyl acetate-isopropanol to give product melting at 218°-219° C.

reactant | 4-(hydroxymethyl)-3,3-diphenyl-2-pyrrolidinone | 0.11 mole | OCC1C(C(NC1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C17H17NO2
reactant | thionyl chloride | 0.20 mole | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 0.26 mole | N1=CC=CC=C1 | C5H5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-(Chloromethyl)-3,3-diphenyl-2-pyrrolidinone | ClCC1C(C(NC1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C17H16ClNO
